* source TRANMITTER
V_V1         N00492 N00560 9Vdc
R_R1         N00545 N00492  470 TC=0,0 
R_R2         N00560 N00553  1.3k TC=0,0 
R_R3         N00549 N00553  220 TC=0,0 
X_U1         N00492 N00553 N00549 LM317
X_D1         N00545 N00560 LED PARAMS: IS=1.7603e-27 RS=2  BV=5 IBV=10e-6      
+    
C_C1         N00560 N00553  .1pf  TC=0,0 
X_D2         N00553 N00560 BAT62-02w/INF
